US07060827B2
In like manner to the preparation of N4-(3-aminophenyl)-N2-[2-(methoxycarbonyl)-benzofurane-5-yl]-5-fluoro-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 2,3-dihydro-1,4-benzodioxin-2-ylmethylamine were reacted to give N2-(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. LCMS: ret. time: 19.26 min.; purity: 96.2%; MS (m/e): 369.08 (MH+).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 2,3-dihydro-1,4-benzodioxin-2-ylmethylamine | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
product | N2-(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | O1C(COC2=C1C=CC=C2)CNC2=NC=C(C(=N2)NC2=CC(=CC=C2)O)F | C19H17FN4O3
